US06716850B2
To a mixture of 1-(5-hydroxy-2H-chromen-6-yl)-propan-1-one (511 mg, 2.5 mmol) and (Rh(II)Ac2)2 (11 mg, 0.025 mmol) in 1,2-dichloroethane (8 mL) at 20° C., was added dropwise (3 h) a solution of ethyl diazoacetate (571 mg, 5 mmol) in 1,2-dichloroethane (2 mL). After 15 min at 20° C., the reaction mixture was washed with H2O (10 mL). The H2O phase was washed with CH2Cl2 (10 mL) and the solvent of the combined organic phases was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, 1→5% MeOH in CH2Cl2), to give 300 mg (41%) of 7-hydroxy-6-propionyl-1,1a,2,7b-tetrahydro-cyclopropa[c]chromene-1-carboxylic acid ethyl ester (a 33/64 mixture of cis and trans isomers).

reactant | 1-(5-hydroxy-2H-chromen-6-yl)-propan-1-one | 2.5 mmol, 511 mg | OC1=C2C=CCOC2=CC=C1C(CC)=O | C12H12O3
reactant | ethyl diazoacetate | 5 mmol, 571 mg | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | 7-hydroxy-6-propionyl-1,1a,2,7b-tetrahydro-cyclopropa[c]chromene-1-carboxylic acid ethyl ester | 300 mg, 41% | C(C)OC(=O)C1C2COC=3C=CC(=C(C3C21)O)C(CC)=O | C16H18O5
